US04067892
A solution of 4-cyanophenoxy-(4'-fluorophenyl) methane (2.25g.; 0.1 mole) in dry ether (20ml) with ethanol (0.46g.; 0.1 mole) was cooled in an ice-bath and then saturated with dry hydrogen chloride gas then allowed to stand for 24 hrs. The resulting solid was filtered off and dried, m.p. 210° C (rearrangement at 135° C). The imino-ether (1.54g) was dissolved in water (30ml) neutralised with dilute sodium hydroxide solution then boiled under reflux for 3 hrs. Mixture cooled and the product extracted with ether to give 4-ethoxycarbonylphenoxy-(4'-fluorophenyl) methane m.p. 60°-2° C.

reactant | 4-cyanophenoxy-(4'-fluorophenyl) methane | 0.1 mole, 2.25g | C(#N)C1=CC=C(OCC2=CC=C(C=C2)F)C=C1 | C14H10FNO
reactant | ethanol | 0.1 mole, 0.46g | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | ether | 20ml | CCOCC | C4H10O
product | 4-ethoxycarbonylphenoxy-(4'-fluorophenyl) methane | C(C)OC(=O)C1=CC=C(OCC2=CC=C(C=C2)F)C=C1 | C16H15FO3
